US05064815
Ointment Comprising Primycin and other Active Ingredients
The alcohol cetyl stearilicus and emulsifier E 2155 (stearyl alcohol polyglycol ether, manufacturer: T. Goldschmidt, Essen, GFR) are melted on a water-bath under constant stirring at 60°-70° C. About 80% of the distilled water having the same temperature is added under constant stirring in a thin stream. The gel is further homogenized with the previously prepared primycin+hydrocortisone+nystatin NMP gel and finally filled up with distilled water.

reactant | primycin hydrocortisone nystatin NMP | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@]4(C(=O)CO)O)C)O.C[C@H]1/C=C/C=C/CC/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H]([C@@H](CC[C@H](C[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)O)O[C@@H]3[C@@H]([C@@H]([C@H]([C@@H](O3)C)O)N)O.CN1CCCC1=O
solvent | water | O | H2O
product | Primycin | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O | C55H103N3O17
